US08110687B2
To a suspension of N-(3-tert-butylphenyl)-7-({2-[4-(hydroxymethyl)-1H-imidazol-2-yl]pyridin-4-yl}oxy)-1,2,3,4-tetrahydronaphthalene-2-carboxamide (I-3) (1.24 g, 2.50 mmol) in DCM (10 mL) was added Dess-Martin periodinane (1.27 g, 3.00 mmol) at rt. The resulting suspension was allowed to stir at rt for 30 min, and then aqueous NaHCO3/Na2SO3 solution (1:1) was added and the mixture was extracted with DCM (30 mL×3). The combined organic solutions were washed with brine, dried over Na2SO4, filtered and concentrated to give N-(3-tert-butylphenyl)-7-{[2-(4-formyl-1H-imidazol-2-yl)pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalene-2-carboxamide as a yellow foam which was used without further purification. LCMS: (FA) ES+ 495.5.

reactant | N-(3-tert-butylphenyl)-7-({2-[4-(hydroxymethyl)-1H-imidazol-2-yl]pyridin-4-yl}oxy)-1,2,3,4-tetrahydronaphthalene-2-carboxamide | 2.50 mmol, 1.24 g | C(C)(C)(C)C=1C=C(C=CC1)NC(=O)C1CC2=CC(=CC=C2CC1)OC1=CC(=NC=C1)C=1NC=C(N1)CO | C30H32N4O3
reactant | Dess-Martin periodinane | 3.00 mmol, 1.27 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaHCO3 Na2SO3 | C(=O)(O)[O-].[Na+].[O-]S(=O)[O-].[Na+].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(3-tert-butylphenyl)-7-{[2-(4-formyl-1H-imidazol-2-yl)pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalene-2-carboxamide | C(C)(C)(C)C=1C=C(C=CC1)NC(=O)C1CC2=CC(=CC=C2CC1)OC1=CC(=NC=C1)C=1NC=C(N1)C=O | C30H30N4O3
